US08207216B2
To a solution of 6-hydroxy-benzofuran-3-one (1.01 g, 6.73 mmol) in dry dichloromethane (18 mL) was added imidazole (0.458 g, 6.727 mmol) followed by tert-butyldiphenylchlorosilane (1.72 mL, 6.73 mmol) at room temperature. The mixture was stirred overnight and poured into brine. The aqueous phase was extracted with dichloromethane. The combined organic layers were dried over Na2SO4, evaporated in vacuo and the residue was purified by column chromatography (ethylacetate:hexane; 1:9) to give the 6-(tert-butyl-diphenyl-silanyloxy)-benzofuran-3-one as slightly yellow oil (1.34 g, 52%). 1H NMR (CDCl3, 400 MHz) 1.21 (s, 9H), 4.54 (s, 2H), 6.40 (s, 1H), 6.55 (dd, J=1.6, 8.0 Hz, 1H), 7.38-7.50 (m, 7H), 7.67 (m, 4H).

reactant | 6-hydroxy-benzofuran-3-one | 6.73 mmol, 1.01 g | OC1=CC2=C(C(CO2)=O)C=C1 | C8H6O3
reactant | imidazole | 6.727 mmol, 0.458 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylchlorosilane | 6.73 mmol, 1.72 mL | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
solvent | dichloromethane | 18 mL | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | 6-(tert-butyl-diphenyl-silanyloxy)-benzofuran-3-one | C(C)(C)(C)[Si](OC1=CC2=C(C(CO2)=O)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H24O3Si
